US07884109B2
9-((1R,4R)-4-(tert-butyldiphenylsilyloxy)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-7H-purin-8(9H)-one.
N4-((1R,4R)-4-(tert-butyldiphenylsilyloxy)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)pyrimidine-4,5-diamine (490 mg, 0.751 mmol, 1 equiv) was dissolved in anhydrous THF (15 mL) and CDI (737 mg, 4.54 mmol, 7 equiv) was added. The reaction was stirred at RT under argon overnight. The solvent was removed by evaporation. The residue was dissolved in EtOAc (30 mL) and washed with saturated NaHCO3, water and brine, dried (Na2SO4). The organic layer was evaporated to dryness. The residue was applied to ISCO (12 g column, MeOH—CH2Cl2 0-2%) to give a white solid product (420 mg, 82%). MS (ESI): 673.3

reactant | N4-((1R,4R)-4-(tert-butyldiphenylsilyloxy)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)pyrimidine-4,5-diamine | 0.751 mmol, 490 mg, 1 equiv | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]1CC[C@H](C2=CC(=CC=C12)F)NC1=NC(=NC=C1N)N1C=NC2=C1C=C(C=C2)F | C37H36F2N6OSi
reactant | CDI | 4.54 mmol, 737 mg, 7 equiv | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 9-((1R,4R)-4-(tert-butyldiphenylsilyloxy)-7-fluoro-1,2,3,4-tetrahydronaphthalen-1-yl)-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-7H-purin-8(9H)-one | 420 mg, 82% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]1CC[C@H](C2=CC(=CC=C12)F)N1C2=NC(=NC=C2NC1=O)N1C=NC2=C1C=C(C=C2)F | C38H34F2N6O2Si
